US08536214B2
a) Methyl 4-(trifluoromethyl)-1H-pyrrole-3-carboxylate
In a round-bottomed flask was added sodium hydride (3.24 mmol, 78 mg) in Et2O (5 mL). A mixture of p-toluenesulfonylmethyl isocyanide (3.24 mmol, 634 mg) and (E)-methyl 4,4,4-trifluorobut-2-enoate (3.24 mmol, 500 mg) were added in a 2:1 mixture of Et2O/DMSO (22.5 mL). The reaction mixture was stirred for a further 30 min then quenched with H2O (10 mL) and extracted with Et2O (×3). The Et2O layers were combined and washed with brine, dried over MgSO4, filtered and the solvent removed to give a yellow/orange solid. Purification by flash chromatography (1:4 EtOAc:Hept) the desired product (154 mg, 0.80 mmol, 24.6%). 1H NMR (400 MHz, CD3OD) δ 3.79 (s, 3H) 7.20 (s, 1H) 7.50 (s, 1H).

reactant | sodium hydride | 3.24 mmol, 78 mg | [H-].[Na+]
reactant | p-toluenesulfonylmethyl isocyanide | 3.24 mmol, 634 mg | C1(=CC=C(C=C1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
reactant | (E)-methyl 4,4,4-trifluorobut-2-enoate | 3.24 mmol, 500 mg | FC(/C=C/C(=O)OC)(F)F | C5H5F3O2
reactant | Et2O DMSO | 22.5 mL | CCOCC.CS(=O)C
solvent | Et2O | 5 mL | CCOCC | C4H10O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Methyl 4-(trifluoromethyl)-1H-pyrrole-3-carboxylate | 0.80 mmol, 154 mg, 24.6% | FC(C=1C(=CNC1)C(=O)OC)(F)F | C7H6F3NO2
